US09126931B2
3-Fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Mixture of 3-fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound V3, 56.6 mg, 0.183 mmol) and pyridinium chloride (0.65 g) was stirred at ambient temperature of 160° C. for 12 hr. The reaction mixture was cooled to room temperature, added with ethyl acetate and water, and the resulting mixture was extracted four times with ethyl acetate. The organic layer was washed with water three times, dried over sodium sulfate, and concentrated under reduced pressure. The obtained crude product was used for the next step without further purification (brown solid, 61.6 mg, 100%).

reactant | 3-fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 0.183 mmol, 56.6 mg | FC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC)=O | C19H16FNO2
reactant | pyridinium chloride | 0.65 g | [Cl-].[NH+]1=CC=CC=C1
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-Fluoro-8-hydroxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | FC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)O)=O | C18H14FNO2
